US09023846B2
2,6-Dichloro-3-nitro-pyridin-4-ylamine (733 mg, 3.52 mmol) was placed in a 48 mL pressure vessel fitted with a magnetic stir bar and treated with NaOMe (7.05 mL, 3.52 mmol, 0.5 M in MeOH). The vessel was sealed and heated to 100° C. for 2 h. The cooled mixture was treated with acetic acid (0.25 mL) in diethyl ether (50 mL). The precipitate was filtered and washed with ether, and the filtrate was concentrated in vacuo. The residue was purified on a 40-g SEPRA Si 35 SPE column (Flow rate=25 mL/min; Eluent=EtOAc-hexanes, 1:19 for 15 min, then 1:19 to 1:4 over 40 min) to yield 6-chloro-2-methoxy-3-nitro-pyridin-4-ylamine as a pale yellow solid. 1H-NMR (400 MHz, CDCl3) δ: 6.36 (s, 1H), 6.14 (br. s., 2H), 4.04 (s, 3H).

reactant | 2,6-Dichloro-3-nitro-pyridin-4-ylamine | 3.52 mmol, 733 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])N)Cl | C5H3Cl2N3O2
reactant | NaOMe | 3.52 mmol, 0.5 M, 7.05 mL | C[O-].[Na+]
reactant | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 6-chloro-2-methoxy-3-nitro-pyridin-4-ylamine | ClC1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C6H6ClN3O3
